Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine; Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___.
 
Chief Complaint:
Burping sensation, chills.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
This is a ___ year old female with a past medical history 
significant for CAD s/p STEMI in ___ with DES in the RCA (___) 
and CABG (LIMA-LAD) (___), AML status post allogeneic 
transplant with pulmonary GVHD, GERD, who presents with burping 
sensation and chills.
.
Patient reports that early this morning, she awoke with acidic 
taste in her mouth, burping, and gas-like abdominal discomfort. 
Denies any chest pressure/heaviness, diaphoresis. Was not 
associated with exertion. She tried antacids and ativan without 
significant improvement. Twenty minutes later, patient developed 
chills lasting for ___ minutes. Temperature at the time was 
98.0. No cough, sneezing, nausea, vomiting, diarrhea, dysuria, 
frequency.
.
Reports that her symptoms are not consistent with her prior 
epigastric pain that occurred when she developed a STEMI in 
___. At baseline, patient has shortness of breath after 
ambulation of several blocks that has been attributed to her 
pulmonary GVHD.
.
In the ED, initial vs were: T: 98.2, P: 125, BP: 127/67, R: 18, 
O2 sat: 99% RA. Patient was given 2L NS, 181mg aspirin X1, 5mg 
IV lopressor X 1. ECG with 1mm ST Dep I aVL, V4-6. ___ set 
cardiac enzymes negative.
.
On the floor, patient reports that she is still burping but her 
chills have resolved. She feels well. No other symptoms 
reported.
.
Review of sytems:
(+) Per HPI
(-) Denies night sweats, recent weight loss or gain. Denies 
headache, sinus tenderness, rhinorrhea or congestion. Denied 
cough, shortness of breath. Denied chest pain or tightness, 
palpitations. Denied nausea, vomiting, diarrhea, constipation. 
No recent change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias. 
 
Past Medical History:
- Recent perforated diverticulum leading to sigmoid resection,
___ procedure and end colostomy. (___)
- CAD, s/p STEMI in ___ with CABG (LIMA to LAD) and DES to 
RCA (___)
- perisurgical atrial fibrillation with RVR ___
- h/o AML, s/p chemotherapy, radiation and bone marrow
transplantation (___)
- Hypertension
- Hypercholesterolemia
- GERD
- Type two diabetes mellitus - diet controlled
- Diverticulosis, noted on colonoscopy ___ years ago
- Occasional bronchospasm treated with Primatene Mist
- History of SVC clot ___ PORT (s/p course of lovenox)
- History of C.Diff ___ & ___
- History of VRE
- History of Shingles
- History of Asthma
- Chronic Kidney Insufficiency 
 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
Vitals: T: 96, BP: 106/54, P: 82, R: 20, O2: 96% RA.
General: NAD, eating lunch
HEENT: MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: no foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CN ___ intact. No focal deficits. 
 
Pertinent Results:
Complete Blood Count:
___ 08:50AM BLOOD WBC-16.1*# RBC-4.86 Hgb-16.4* Hct-50.4* 
MCV-104* MCH-33.8* MCHC-32.6 RDW-16.4* Plt ___
___ 06:35AM BLOOD WBC-8.4 RBC-4.25 Hgb-14.5 Hct-43.8 
MCV-103* MCH-34.1* MCHC-33.0 RDW-16.5* Plt ___
___ 08:50AM BLOOD Neuts-83* Bands-0 Lymphs-12* Monos-5 
Eos-0 Baso-0 ___ Myelos-0
___ 06:35AM BLOOD Neuts-71.0* ___ Monos-5.5 Eos-0.7 
Baso-0.2
.
Coagulation Profile:
___ 08:50AM BLOOD ___ PTT-23.5 ___
.
Basic Metabolic Profile:
___ 08:50AM BLOOD Glucose-145* UreaN-23* Creat-1.3* Na-139 
K-4.6 Cl-100 HCO3-23 AnGap-21*
___ 06:35AM BLOOD Glucose-170* UreaN-19 Creat-1.2* Na-140 
K-4.7 Cl-104 HCO3-26 AnGap-15
___ 06:35AM BLOOD Calcium-9.5 Phos-3.5 Mg-1.9
.
Liver Tests:
___ 08:50AM BLOOD ALT-42* AST-38 TotBili-0.7
.
Cardiac Biomarkers:
___ 05:02PM BLOOD CK(CPK)-52
___ 01:50AM BLOOD CK(CPK)-52
___ 08:50AM BLOOD cTropnT-<0.01
___ 05:02PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 01:50AM BLOOD CK-MB-NotDone cTropnT-<0.01
.
___ 08:50AM BLOOD Lipase-34
.
Urine:
___ 06:31AM URINE Color-Straw Appear-Clear Sp ___
___ 06:31AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 06:31AM URINE RBC-0 WBC-0 Bacteri-RARE Yeast-NONE Epi-0
.
Urine Culture (___): No growth.
.
Blood Cultures (___): No growth.
.
ECG (___): Sinus tachycardia. Prior inferior (question of 
posterior) myocardial infarction. Diffuse ST-T wave 
abnormalities are non-specific but cannot exclude myocardial 
ischemia. Clinical correlation is suggested. Since the previous 
tracing of ___ sinus tachycardia and diffuse ST-T wave 
changes are not present.
.
Chest Radiograph (___): IMPRESSION: No acute intrathoracic 
abnormality or significant change from the prior study.
 
Brief Hospital Course:
___ year old female with a past medical history significant for 
CAD s/p STEMI in ___ with DES in the RCA (___) and CABG 
(LIMA-LAD) (___), AML status post allogeneic transplant with 
pulmonary GVHD, GERD, who presents with abdominal discomfort and 
chills.
.
# Indigestion/GERD: Patient presented with atypical symptoms of 
abdominal indigestion and burping that were not suggestive of 
cardiac etiology, most likely secondary to underlying GERD.  
Patient reported that her discomfort was different in comparison 
to the symptoms experienced during her STEMI ___ years prior, 
which manifested primarily as epigastric discomfort.  Recent ETT 
on ___ was inconclusive without imaging.  Echo on ___ 
demonstrated mild reduction in her LVEF, that did not appear to 
be ischemic in nature.  Cardiac biomarkers were flat, ECG 
demonstrated non-specific ST changes in the setting of 
tachycardia.  Patient was continued on aspirin 81mg, beta 
blocker, lipitor, lisinopril.  She was continued on home PPi and 
started on simethicone for gas discomfort.  All symptoms 
resolved by the time of discharge.  Will follow up with primary 
care physician and cardiologist upon discharge, with potential 
stress test with imaging as an outpatient.
.
# Chills/Leukocytosis: Patient reported 30 minute history of 
shaking chills without fever prior to admission.  Remained 
afebrile throughout admission.  Leukocytosis was most likely 
secondary to hemoconcentration, as all cell lines normalized 
with IV fluids.  Blood culture was negative.  Urine analysis and 
culture were negative.  CXR with no acute cardiopulmonary 
process.
.
# Chronic dyspnea on exertion: Likely multifactorial, but per 
outpatient cardiologist, unlikely related to coronary 
insufficiency with exertion, as the inferior wall infarction is 
without significant viability within the adjacent areas to 
become ischemic.  Further, global reduction in ejection fraction 
was thought to be more consistent with toxic/metabolic etiology 
rather than ischemia.  Symptoms may be secondary to pulmonary 
GVHD, which is being treated by outpatient oncologist with 
steroids recently increased on ___. 
.
# AML status post allogeneic transplant: Stable, followed by Dr. 
___, with close follow up at the time of discharge.  Patient 
was continued on home acyclovir, home calcium/vit D, and 
alendronate every week.
.
# Chronic kidney disease: Creatinine at baseline.
.
# HTN: Normotensive, continued home metoprolol, lisinopril.
.
# Hypercholesterolemia: Continued home lipitor
.
# DMII: Metformin was held on admission, with initiation of 
insulin sliding scale.  Metformin restarted at the time of 
discharge.  
.
# Asthma: Stable, continued on home albuterol. 
 
Medications on Admission:
-acyclovir 400mg PO BID
-albuterol inhaler PRN
-alendronate 70mg PO qweekly
-atorvastatin 80mg PO daily
-ativan 0.5mg PO daily
-metformin 500mg PO BID
-metoprolol 25mg PO BID
-prilosec 20mg PO daily
-prednisone 15mg PO daily
-lisinopril 2.5mg PO daily
-aspirin 81mg PO daily
-calcium carbonate 1200mg PO daily
-vitamin D 1000mg PO daily
-flaxseed oil 1000mg PO daily
-MVI
-omega-3 fish oil 1000mg PO daily 
 
Discharge Medications:
1. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
2. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q6H (every 6 hours) as needed for shortness 
of breath.  
3. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

4. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for anxiety.  
6. Metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.  
7. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. Prednisone 10 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
10. Lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
11. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
12. Calcium Carbonate 500 mg (1,250 mg) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
13. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: 2.5 
Tablets PO DAILY (Daily).  
14. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. Flaxseed Oil 1,000 mg Capsule Sig: One (1) Capsule PO once a 
day.  
16. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
17. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed for gas.
Disp:*120 Tablet, Chewable(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- GERD
- Indigestion
.
Secondary:
- Coronary artery disease, status post STEMI in ___ with 
CABG (LIMA to ___ and drug eluting stent to RCA (___)
- AML, status post bone marrow transplantation (___)
- Hypercholesterolemia  
- Diabetes Mellitus II
- Chronic kidney insufficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital due to 
indigestion and a burping sensation.  Due to your extensive 
cardiac history, you were admitted to the hospital to rule out 
any cardiac cause for your symptoms.  Your blood work 
demonstrates that you did not have a heart attack.  Your 
symptoms are most likely secondary to your reflux or 
indigestion.  Please follow up with your primary care physician 
as below.
.
We have made the following CHANGES to your medications:
--> STARTED simethicone to be used 4 times a day as needed for 
bloating and gas
 
Followup Instructions:
___